US08044213B2
A mixture of 0.900 g (2.23 mmole) of 4-(3-chloro-phenyl)-2-(5-formyl-2-nitro-phenylamino)-thiazole-5-carboxylic acid amide (VI.2b), 1.03 g (4.46 mmole) of methyl-(3-morpholin-4-yl-propyl)-amine dihydrochloride and 60 mL of dichloromethane was stirred for 20 minutes, then 1.134 g (5.35 mmole) of sodium triacetoxyborohydride was added. The mixture was stirred for 4 days, then quenched by the addition of 50 mL of saturated sodium bicarbonate solution. The mixture was extracted three times with 50 mL of dichloromethane. The combined dichloromethane layers were washed with 50 mL of brine, dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. The residue was purified by silica gel chromatography, eluting with dichloromethane-methanol (90:10) to give 0.830 g of 4-(3-chloro-phenyl)-2-(5-{[methyl-(3-morpholin-4-yl-propyl)-amino]-methyl}-2-nitro-phenylamino)-thiazole-5-carboxylic acid amide (VI.50a).

reactant | 4-(3-chloro-phenyl)-2-(5-formyl-2-nitro-phenylamino)-thiazole-5-carboxylic acid amide | 2.23 mmole, 0.900 g | ClC=1C=C(C=CC1)C=1N=C(SC1C(=O)N)NC1=C(C=CC(=C1)C=O)[N+](=O)[O-] | C17H11ClN4O4S
reactant | methyl-(3-morpholin-4-yl-propyl)-amine dihydrochloride | 4.46 mmole, 1.03 g | Cl.Cl.CNCCCN1CCOCC1
reactant | sodium triacetoxyborohydride | 5.35 mmole, 1.134 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloromethane | 60 mL | ClCCl | CH2Cl2
product | 4-(3-chloro-phenyl)-2-(5-{[methyl-(3-morpholin-4-yl-propyl)-amino]-methyl}-2-nitro-phenylamino)-thiazole-5-carboxylic acid amide | 0.830 g | ClC=1C=C(C=CC1)C=1N=C(SC1C(=O)N)NC1=C(C=CC(=C1)CN(CCCN1CCOCC1)C)[N+](=O)[O-] | C25H29ClN6O4S
